US06642267B2
An excess of diazomethane in ether is added to a suspension of 0.46 g (2 mmol) benzylidene-4-hydroxy-3-nitro-3-pyrrolin-2-one (prepared by the method of H. Poschenrieder et al (Arch. Pharm. Pharm. Med. Chem. 1998, vol. 331, pp. 389-394) and Stachel et al (J. Heterocycl. Chem. 1980, vol. 17, pp. 1195-1199 and Liebigs Ann. Chem. 1985, pp. 1692-1696)) in 20 ml methanol. When the evolution of nitrogen has subsided, the solvent is stripped off, the residue is dissolved in methanol and the solution is heated under reflux with an excess of benzylamine for five minutes, whereupon yellow crystals precipitate out, which are filtered off with suction and washed with methanol. 4-Benzylamino-5-benzylidene-3-nitro-1,5-dihydropyrrol-2-one was obtained with a melting point of 218° C. in a yield of 60%.

reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | benzylidene-4-hydroxy-3-nitro-3-pyrrolin-2-one | 2 mmol, 0.46 g | C(C1=CC=CC=C1)=C1C(=C(C(N1)=O)[N+](=O)[O-])O | C11H8N2O4
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
solvent | ether | CCOCC | C4H10O
solvent | methanol | 20 ml | CO | CH4O
product | 4-Benzylamino-5-benzylidene-3-nitro-1,5-dihydropyrrol-2-one | yield of 60% | C(C1=CC=CC=C1)NC1=C(C(NC1=CC1=CC=CC=C1)=O)[N+](=O)[O-] | C18H15N3O3
